US06833378B2
7-(1-Ethyl-propoxy)-1,5-dimethyl-3-(2,4,6-trimethyl-phenyl)-1,3-dihydro-imidazo[4,5-b]pyridin-2-one
The title compound was prepared by reacting 7-(1-ethyl-propoxy)-5-methyl-3-(2,4,6-trimethyl-phenyl)-1,3-dihydro-imidazo[4,5-b]pyridin-2-one with lithium bis(trimethylsilyl)amide, followed by quenching with methyl iodide. Mp. 151-153° C. Anal. For C22H29N3O2. ¼H2O calc. C, 71.03; H, 7.99; N, 11.30; found: C, 71.29; H, 8.01; N, 11.03.

reactant | 7-(1-ethyl-propoxy)-5-methyl-3-(2,4,6-trimethyl-phenyl)-1,3-dihydro-imidazo[4,5-b]pyridin-2-one | C(C)C(CC)OC1=C2C(=NC(=C1)C)N(C(N2)=O)C2=C(C=C(C=C2C)C)C | C21H27N3O2
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
product | 7-(1-Ethyl-propoxy)-1,5-dimethyl-3-(2,4,6-trimethyl-phenyl)-1,3-dihydro-imidazo[4,5-b]pyridin-2-one | C(C)C(CC)OC1=C2C(=NC(=C1)C)N(C(N2C)=O)C2=C(C=C(C=C2C)C)C | C22H29N3O2
